US07129225B2
2-methoxy-5-nitrobenzylalcohol
This compound was prepared by reduction of 2-methoxy-5-nitrobenzaldehyde methyl hemiacetal using a method similar to that described for preparing 2-hydroxymethyl-4-nitrophenol in 76% yield: MP 121–122° C.; 1H NMR (DMSO-d6, 500 MHz) δ8.22 (d, 1H, J=1.22 Hz), 8.16 (dd, 1H, J=2.7 and 9.1), 7.16 (d, 1H, J=8.9 Hz), 4.50 (s, 2H), 3.90 (s, 3H).

reactant | 2-methoxy-5-nitrobenzaldehyde methyl hemiacetal | COC(C1=C(C=CC(=C1)[N+](=O)[O-])OC)O | C9H11NO5
reactant | 2-hydroxymethyl-4-nitrophenol | OCC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO4
product | 2-methoxy-5-nitrobenzylalcohol | 76% yield | COC1=C(CO)C=C(C=C1)[N+](=O)[O-] | C8H9NO4
